US05536718
6-[(2-Biphenylcarbonyl)amino]pyridine-3-carbonyl chloride
A mixture of 1.9 g of 6-[(2-biphenylcarbonyl)amino]pyridine-3-carboxylic acid and 9 ml of thionyl chloride is refluxed for 1 hour and then concentrated to dryness under vacuum. Toluene (15 ml) is added (twice) to the residue and the solvent removed under vacuum to give 2.1 g of a light brown oil.

reactant | 6-[(2-biphenylcarbonyl)amino]pyridine-3-carboxylic acid | 1.9 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)O)C1=CC=CC=C1 | C19H14N2O3
reactant | thionyl chloride | 9 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-[(2-Biphenylcarbonyl)amino]pyridine-3-carbonyl chloride | 2.1 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
